US08207177B2
Step a: (1R,2S,3R,5S)-3-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]-pyrimidin-7-yl}-5-(hydroxymethyl)cyclopentane-1,2-diol
To a solution of (4aS,6R,7R,7aR)-6-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2-(4-methoxyphenyl)-7-methylhexahydrocyclopenta[d]-[1,3]dioxin-7-ol (312 mg, 0.594 mmol, as prepared following the procedure in Example 1a-d, using (S)-(+)-1-aminoindan in step c) in THF (1.17 mL) and water (1.17 mL) was added AcOH (3.51 mL, 61.7 mmol) under an atmosphere of nitrogen. The mixture was stirred at rt overnight. The solvent was removed in vacuo and the residue was purified by silica gel chromatography eluting with a gradient of 0 to 10% MeOH in DCM to afford the title compound as a white solid (182 mg, 76%). LC/MS: Rt=0.85 min, ES+ 381 (FA standard).

reactant | (4aS,6R,7R,7aR)-6-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2-(4-methoxyphenyl)-7-methylhexahydrocyclopenta[d]-[1,3]dioxin-7-ol | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@@H]2C[C@@H]1[C@@H](OC(OC1)C1=CC=C(C=C1)OC)[C@@]2(O)C | C30H32N4O4
reactant | (S)-(+)-1-aminoindan | N[C@H]1CCC2=CC=CC=C12 | C9H11N
reactant | water | 1.17 mL | O | H2O
reactant | AcOH | 61.7 mmol, 3.51 mL | CC(=O)O | C2H4O2
solvent | THF | 1.17 mL | C1CCOC1 | C4H8O
product | (1R,2S,3R,5S)-3-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]-pyrimidin-7-yl}-5-(hydroxymethyl)cyclopentane-1,2-diol | 182 mg, 76% | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@@H](C2)CO)O)O | C21H24N4O3
